US06140344
A mixture of 4-(3,4-dichlorobenzoyl)piperidine (1.0 g, 3.9 mmol), ethylene glycol (0.65 ml, 11.6 mmol), p-toluenesulfonic acid mono hydrate (1.48 g, 7.8 mmol), and toluene (100 mL) was refluxed through a Dean-Stark trap for 4 h. After concentration, the residue was stirred with ethyl acetate and dilute aqueous sodium bicarbonate solution. The organic layer was separated, dried over magnesium sulfate, and concentrated in vacuo to give 4-[2-(3,4-dichlorophenyl)-[1,3]dioxolan-2-yl]piperidine (0.6 g, 1.99 mmol).

reactant | 4-(3,4-dichlorobenzoyl)piperidine | 3.9 mmol, 1.0 g | ClC=1C=C(C(=O)C2CCNCC2)C=CC1Cl | C12H13Cl2NO
reactant | ethylene glycol | 11.6 mmol, 0.65 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid mono hydrate | 7.8 mmol, 1.48 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(3,4-dichlorophenyl)-[1,3]dioxolan-2-yl]piperidine | 1.99 mmol, 0.6 g | ClC=1C=C(C=CC1Cl)C1(OCCO1)C1CCNCC1 | C14H17Cl2NO2
